US04036849
Following the general procedure of Example 15, 1-[p-(ethylthio)phenyl]-1H-tetrazole (prepared from p-ethylthioaniline by the method of Example 2) is treated with sodium azide and concentrated sulfuric acid to give the S-ethyl-S-[p-(1H-tetrazole-1-yl)-phenyl]sulfoximine.

reactant | 1-[p-(ethylthio)phenyl]-1H-tetrazole | C(C)SC1=CC=C(C=C1)N1N=NN=C1 | C9H10N4S
reactant | p-ethylthioaniline | C(C)SC1=CC=C(N)C=C1 | C8H11NS
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | S-ethyl-S-[p-(1H-tetrazole-1-yl)-phenyl]sulfoximine | C(C)S(=O)(=N)C1=CC=C(C=C1)N1N=NN=C1 | C9H11N5OS
